### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): Presentation.isQuasicoherent

### PR DESCRIPTION
**Pull request by WenrongZou**
Given a sheaf of `R`-modules `M` and a `Presentation M`, then `M` is quasicoherent.

This contribution was created as part of the Heidelberg Lean workshop "Formalising algebraic geometry" in November 2025.

Co-authored-by: William Coram @WilliamCoram
Co-authored-by: Andrew Yang @erdOne

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Equivalence/Symmetry.lean [hunk 1]
```diff
@@ -108,4 +108,20 @@ def congrLeftFunctor (E : Type*) [Category* E] : (C ≌ D) ⥤ ((C ⥤ E) ≌ (D
...
+lemma _root_.CategoryTheory.Equivalence.symm_counit.{v₁, v₂, u₁, u₂}
+    {C : Type u₁} [Category.{v₁, u₁} C]
+    {D : Type u₂} [Category.{v₂, u₂} D]
+    (e : C ≌ D) : e.symm.counit = e.unitInv := rfl
+
+@[simp]
+lemma _root_.CategoryTheory.Equivalence.symm_unit.{v₁, v₂, u₁, u₂}
+    {C : Type u₁} [Category.{v₁, u₁} C]
+    {D : Type u₂} [Category.{v₂, u₂} D]
+    (e : C ≌ D) : e.symm.unit = e.counitInv := rfl
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Equivalence/Symmetry.lean]: This should go near the definition of `Equivalence.symm`.

File: Mathlib/CategoryTheory/Sites/Over.lean [hunk 2]
```diff
@@ -239,6 +241,27 @@ instance {X Y : C} (f : X ⟶ Y) : (Over.map f).IsContinuous (J.over X) (J.over
 
 section
 
+open CategoryTheory Limits
+
+variable {C : Type u'} [SmallCategory C] [HasBinaryProducts C] {J : GrothendieckTopology C}
+
+theorem over_star_coverPreserving (X : C) :
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Sites/Over.lean]:
```suggestion
theorem coverPreserving_over_star (X : C) :
```

File: Mathlib/CategoryTheory/Equivalence/Symmetry.lean (hunk 1 above)
Comment (WenrongZou) [reply Mathlib/CategoryTheory/Equivalence/Symmetry.lean]: Sure. I will move it. Thanks!

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 3]
```diff
@@ -244,4 +248,55 @@ noncomputable def quasicoherentDataOfIsFinitePresentation
...
+    naturality U V f := by simp [← Functor.map_comp, ← op_comp]; rfl }⟩
+
+/-- The adjunction between restriction to `Over x` and pushforward along `Over.star x`. -/
+def overPushforwardOverAdj (x : C) :
+    pushforward.{u'} (𝟙 (R.over x)) ⊣ pushforward.{u'} (pushforwardOver x) := by
+  refine pushforwardPushforwardAdj (Over.forgetAdjStar x) (𝟙 (R.over x)) _ ?_ ?_
+  · ext y : 2
+    simp [pushforwardOver]
+  · ext y : 2
+    simp [pushforwardOver, ← Functor.map_comp, ← op_comp]
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: These should go near `pushforwardPushforwardAdj` I think.

File: Mathlib/CategoryTheory/Comma/Over/Pullback.lean [hunk 4]
```diff
@@ -148,6 +148,18 @@ Note that the binary products assumption is necessary: the existence of a right
 -/
 def forgetAdjStar : forget X ⊣ star X := (coalgebraEquivOver X).symm.toAdjunction.comp (adj _)
 
+@[simp]
+lemma forgetAdjStar_counit
+    {C : Type u} [Category C] (X Y : C) [HasBinaryProducts C] :
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Comma/Over/Pullback.lean]: Can you try to see if you can reuse the variables?

File: Mathlib/CategoryTheory/Equivalence.lean [hunk 5]
```diff
@@ -360,6 +360,18 @@ def symm (e : C ≌ D) : D ≌ C :=
 @[simp]
 lemma mkHom_id_inverse {e : C ≌ D} : mkHom (𝟙 e.inverse) = 𝟙 e.symm := rfl
 
+@[simp]
+lemma symm_counit
+    {C : Type u₁} [Category.{v₁, u₁} C]
+    {D : Type u₂} [Category.{v₂, u₂} D]
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Equivalence.lean]: Same here.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/PushforwardContinuous.lean [hunk 6]
```diff
@@ -251,6 +253,31 @@ lemma pushforwardPushforwardAdj_counit_app_val_app (M U x) :
...
+
+/-- The adjunction between restriction to `Over x` and pushforward along `Over.star x`. -/
+def overPushforwardOverAdj (x : C) :
+    pushforward.{u'} (𝟙 (R.over x)) ⊣ pushforward.{u'} (pushforwardOver x) := by
+  refine pushforwardPushforwardAdj (Over.forgetAdjStar x) (𝟙 (R.over x)) _ ?_ ?_
+  · ext y : 2
+    simp [pushforwardOver]
+  · ext y : 2
+    simp [pushforwardOver, ← Functor.map_comp, ← op_comp]
+
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/PushforwardContinuous.lean:277]: Can you provide a `IsLeftAdjoint` instance for `pushforward.{u'} (𝟙 (R.over x))`?

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 7]
```diff
@@ -244,4 +248,40 @@ noncomputable def quasicoherentDataOfIsFinitePresentation
...
+variable {C : Type u'} [SmallCategory C] [HasBinaryProducts C] {J : GrothendieckTopology C}
+  {R : Sheaf J RingCat} [HasSheafify J AddCommGrpCat] [J.WEqualsLocallyBijective AddCommGrpCat]
+  [J.HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
+
+variable [∀ X, (J.over X).HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
+  [∀ X, HasSheafify (J.over X) AddCommGrpCat]
+  [∀ X, (J.over X).WEqualsLocallyBijective AddCommGrpCat]
+
+instance {x : C} : PreservesColimits (pushforward.{u'} (𝟙 (R.over x))) :=
+  (overPushforwardOverAdj x).leftAdjoint_preservesColimits
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: Then this should be unnecessary.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 8]
```diff
@@ -244,4 +248,40 @@ noncomputable def quasicoherentDataOfIsFinitePresentation
...
+
+/-- Given a sheaf of `R`-modules `M` and a `Presentation M`, then there is a quasicoherent data. -/
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]:
```suggestion
/-- Given a sheaf of `R`-modules `M` and a `Presentation M`, we may construct the quasi-coherent
data on the trivial cover -/
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 9]
```diff
@@ -244,4 +248,40 @@ noncomputable def quasicoherentDataOfIsFinitePresentation
...
+    QuasicoherentData M where
+  I := C
+  X := id
+  coversTop := fun x ↦ GrothendieckTopology.covering_of_eq_top J <| by
+    rw [Sieve.ext_iff]
+    intro _ f
+    simpa [Sieve.top_apply, iff_true] using ⟨x, Nonempty.intro f⟩
+  presentation := fun x => P.map (pushforward (𝟙 (R.over x))) (by rfl)
+
+/-- Given a sheaf of `R`-modules `M` and a `Presentation M`, then `M` is quasicoherent. -/
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]:
```suggestion
/-- If a sheaf of `R`-modules `M` has a presentation, then `M` is quasi-coherent. -/
```

**Review by erdOne — APPROVED** [review]
Otherwise LGTM, but I am a co-author.

File: Mathlib/CategoryTheory/Comma/Over/Pullback.lean [hunk 10]
```diff
@@ -148,6 +148,15 @@ Note that the binary products assumption is necessary: the existence of a right
 -/
 def forgetAdjStar : forget X ⊣ star X := (coalgebraEquivOver X).symm.toAdjunction.comp (adj _)
 
+@[simp]
+lemma forgetAdjStar_counit (X Y : C) : (Over.forgetAdjStar X).counit.app Y = prod.snd := by
+  simp [Over.forgetAdjStar, CategoryTheory.coalgebraEquivOver]
+
+@[simp]
+lemma forgetAdjStar_unit (X : C) (Y : Over X) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Comma/Over/Pullback.lean]:
```suggestion
lemma forgetAdjStar_unit_app_left (X : C) (Y : Over X) :
```

File: Mathlib/CategoryTheory/Comma/Over/Pullback.lean [hunk 11]
```diff
@@ -148,6 +148,15 @@ Note that the binary products assumption is necessary: the existence of a right
 -/
 def forgetAdjStar : forget X ⊣ star X := (coalgebraEquivOver X).symm.toAdjunction.comp (adj _)
 
+@[simp]
+lemma forgetAdjStar_counit (X Y : C) : (Over.forgetAdjStar X).counit.app Y = prod.snd := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Comma/Over/Pullback.lean]:
```suggestion
lemma forgetAdjStar_counit_app (X Y : C) : (Over.forgetAdjStar X).counit.app Y = prod.snd := by
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 12]
```diff
@@ -244,4 +248,38 @@ noncomputable def quasicoherentDataOfIsFinitePresentation
...
+@[simps]
+def Presentation.QuasicoherentData {M : SheafOfModules R} (P : Presentation M) :
+    QuasicoherentData M where
+  I := C
+  X := id
+  coversTop := fun x ↦ GrothendieckTopology.covering_of_eq_top J <| by
+    rw [Sieve.ext_iff]
+    intro _ f
+    simpa [Sieve.top_apply, iff_true] using ⟨x, Nonempty.intro f⟩
+  presentation := fun x => P.map (pushforward (𝟙 (R.over x))) (by rfl)
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: Untested:
```suggestion
  coversTop x := GrothendieckTopology.covering_of_eq_top J <| by
    rw [Sieve.ext_iff]
    intro _ f
    simpa [Sieve.top_apply, iff_true] using ⟨x, Nonempty.intro f⟩
  presentation x := P.map (pushforward (𝟙 (R.over x))) (by rfl)
```

**Comment by WenrongZou** [comment]
Thanks!

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 13]
```diff
@@ -244,4 +248,38 @@ noncomputable def quasicoherentDataOfIsFinitePresentation
...
+  [J.HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
+
+variable [∀ X, (J.over X).HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
+  [∀ X, HasSheafify (J.over X) AddCommGrpCat]
+  [∀ X, (J.over X).WEqualsLocallyBijective AddCommGrpCat]
+
+/-- Given a sheaf of `R`-modules `M` and a `Presentation M`, we may construct the quasi-coherent
+data on the trivial cover. -/
+@[simps]
+def Presentation.QuasicoherentData {M : SheafOfModules R} (P : Presentation M) :
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]:
```suggestion
def Presentation.quasicoherentData {M : SheafOfModules R} (P : Presentation M) :
```

File: Mathlib/CategoryTheory/Sites/Over.lean [hunk 14]
```diff
@@ -239,6 +241,27 @@ instance {X Y : C} (f : X ⟶ Y) : (Over.map f).IsContinuous (J.over X) (J.over
 
 section
 
+open CategoryTheory Limits
+
+variable {C : Type u'} [SmallCategory C] [HasBinaryProducts C] {J : GrothendieckTopology C}
+
+theorem coverPreserving_over_star (X : C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Over.lean:248]: `Over.star` becomes `overStar` according to the naming conventions:
```suggestion
theorem coverPreserving_overStar (X : C) :
```

File: Mathlib/CategoryTheory/Sites/Over.lean [hunk 15]
```diff
@@ -239,6 +241,27 @@ instance {X Y : C} (f : X ⟶ Y) : (Over.map f).IsContinuous (J.over X) (J.over
 
 section
 
+open CategoryTheory Limits
+
+variable {C : Type u'} [SmallCategory C] [HasBinaryProducts C] {J : GrothendieckTopology C}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Over.lean]: Do we really need to know that `C` is a small category?

File: Mathlib/CategoryTheory/Sites/Over.lean (hunk 14 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/Sites/Over.lean:248]: I am guessing the `over` is referring to `GrothendieckTopology.over`.

File: Mathlib/CategoryTheory/Sites/Over.lean (hunk 15 above)
Comment (WenrongZou) [reply Mathlib/CategoryTheory/Sites/Over.lean]: Thanks! We don't need small category here.

File: Mathlib/CategoryTheory/Sites/Over.lean (hunk 14 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/Sites/Over.lean:248]: (Hence I don't think this should be renamed)

Comment (WenrongZou) [reply Mathlib/CategoryTheory/Sites/Over.lean:248]: Maybe here it is better to name it using the functor `Over.star X`.

Comment (WenrongZou) [reply Mathlib/CategoryTheory/Sites/Over.lean:248]: Oh, thanks!

File: Mathlib/CategoryTheory/Sites/Over.lean (hunk 15 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Over.lean]: You changed `SmallCategory C` to `Category.{u'} C` here, which is the same thing. It seems like `coverPreserving_over_star` holds for a universe polymorphic `C`, whereas the instance below fails, because of `compatiblePreservingOfFlat`. Is there a way to make this univese polymorphic?

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 16]
```diff
@@ -244,4 +248,38 @@ noncomputable def quasicoherentDataOfIsFinitePresentation
...
+
+open CategoryTheory Limits
+
+variable {C : Type u'} [SmallCategory C] [HasBinaryProducts C] {J : GrothendieckTopology C}
+  {R : Sheaf J RingCat} [HasSheafify J AddCommGrpCat] [J.WEqualsLocallyBijective AddCommGrpCat]
+  [J.HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
+
+variable [∀ X, (J.over X).HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
+  [∀ X, HasSheafify (J.over X) AddCommGrpCat]
+  [∀ X, (J.over X).WEqualsLocallyBijective AddCommGrpCat]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: The `HasSheafify` and `WEqualsLocallyBijective` assumptions should be synthesized, sinve it's about a `SheafOfModules.{u'}`, maybe you're missing an import?

**Review by dagurtomas — COMMENTED** [review]
LGTM except for my two comments

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean (hunk 16 above)
Comment (WenrongZou) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: I am not sure whether this could be synthesized, maybe ask Andrew for help. @erdOne Thanks!

File: Mathlib/CategoryTheory/Sites/Over.lean (hunk 15 above)
Comment (WenrongZou) [reply Mathlib/CategoryTheory/Sites/Over.lean]: Also here @erdOne. I don't know how to fix it. Thanks!

Comment (erdOne) [reply Mathlib/CategoryTheory/Sites/Over.lean]: I pushed a fix of the universes.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean (hunk 16 above)
Comment (erdOne) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: It is only automatic for (essentially) small sites. The rest of the file also contains assumption like these.

Comment (WenrongZou) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: Let me try to remove some redundant instance in the file QuasiCoherent. Thanks!

Comment (erdOne) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: The point is they are not redundant. They are not true in general.

Comment (WenrongZou) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: Aha, thanks!

Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: But this is a small site? Is there an import missing to synthesize these? In any case it's harmless to leave them

Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: Oh I see, it was small but you've genralized the universes

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 17]
```diff
@@ -121,14 +123,18 @@ def Presentation.isColimit {M : SheafOfModules.{u} R} (P : Presentation M) :
...
 
-variable {C' : Type u'} [Category.{v'} C'] {J' : GrothendieckTopology C'} {S : Sheaf J' RingCat}
+variable {C' : Type u₂} [Category.{v₂} C'] {J' : GrothendieckTopology C'} {S : Sheaf J' RingCat.{u}}
   [HasSheafify J' AddCommGrpCat] [J'.WEqualsLocallyBijective AddCommGrpCat]
   [J'.HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
 
-variable {M : SheafOfModules.{u'} R} (P : Presentation M)
-  (F : SheafOfModules.{u'} R ⥤ SheafOfModules.{u'} S) [PreservesColimits F]
+variable {M : SheafOfModules.{u} R} (P : Presentation M)
+  (F : SheafOfModules.{u} R ⥤ SheafOfModules.{u} S) [PreservesColimits F]
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]:
```suggestion
  (F : SheafOfModules.{u} R ⥤ SheafOfModules.{u} S) [PreservesColimitsOfSize.{u, u} F]
```
Then, you may add the following instance below instead:
```lean
local instance : PreservesColimitsOfSize.{0, 0} F := preservesColimitsOfSize_shrink _
```

Comment (WenrongZou) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: Thanks!

**Comment by WenrongZou** [comment]
-awaiting-author

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 18]
```diff
@@ -244,4 +252,39 @@ noncomputable def quasicoherentDataOfIsFinitePresentation
...
+
+variable {C : Type u₁} [Category.{v₁} C] [HasBinaryProducts C] {J : GrothendieckTopology C}
+  {R : Sheaf J RingCat.{u}} [HasSheafify J AddCommGrpCat] [J.WEqualsLocallyBijective AddCommGrpCat]
+  [J.HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
+
+variable [∀ X, (J.over X).HasSheafCompose (forget₂ RingCat AddCommGrpCat)]
+  [∀ X, HasSheafify (J.over X) AddCommGrpCat]
+  [∀ X, (J.over X).WEqualsLocallyBijective AddCommGrpCat]
+
+set_option pp.universes true in
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: I believe this is no longer necessary:
```suggestion
```
